reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4][N:5]([N+:7]#[C-:6])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],31.45982465007191
[C:1]([C:2]([C@@:3]([C:4][H:13])([O:6][C:5]([H:14])([H:15])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],15.608511795395998
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([N+:2]#[C-:3])([H:7])([H:8])[H:9].[N:4]([H:10])([H:11])[H:12],81.60513049274908
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[N:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],65.96935247498091
[O:1]([O:6]/[C:5](=[C:2](\[C:3](=[O:4])[H:9])[H:8])[H:10])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],54.37431880948081
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[C:5]=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9],90.9105685553956
[C:1]([C:2]([C:7]([O:6][C:5]([C:4]([O:3][H:17])([H:13])[H:14])([H:15])[H:16])([H:18])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],105.88146609796125
[C:1]([c:2]1[n:3][c:4]([H:11])[c:5]([O:6][H:12])[n:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[N:3])([H:8])([H:9])[H:10].[C:4]1([H:11])=[C:5]([O:6][H:12])[N:7]1[H:13],103.35870871745001
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]1[C@:2]([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])([H:7])[N:3]1[H:8],110.88769167663999
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:3][H:12])[C@@:4]([C:6](=[O:7])[H:13])([H:11])[O:5]1)([H:8])([H:9])[H:10],56.020284610433905
[O:1]=[C:2]([C:3]#[C:4][O+:6]=[C-:5][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],23.240394931488908
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])=[C:6]=[N:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],69.4303960978344
[C:1]([C:2]([O:3][C@:4]1([O:5][H:15])[C:6]([H:13])([H:14])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],22.59251490787191
[C:1]([C@@:2]([O:3][H:11])([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C@@:4]([O:6][H:16])([H:12])[C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:3]([H:11])[H:13],93.60065439371508
[C:1]([C:2]([N:3]([C:4]([O:5][H:15])=[C:6]([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.850060079837704
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]([C:6]([H:12])([H:13])[H:14])([H:10])[O:5]1)([H:7])([H:8])[H:9],71.3763278257295
[C:1]1([H:7])=[N:6][C@@:5]2([H:10])[N:3]3[C@:2]1([H:8])[C@:4]32[H:9]>>[c:1]1([H:7])[c:2]([H:8])[n:3][c:4]([H:9])[c:5]([H:10])[n:6]1,32.35474394912638
[C:5](#[N:6])[H:10].[O:1]([C:2]([C:3][O:4][H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],28.13197378505791
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([C:5]#[N:6])[H:11])([H:7])[H:9].[H:8][H:10],85.9482338121832
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[N:4])([N+:6]#[C-:5])[H:8])[H:7],53.8499570582866
[C:1]([N+:2]1([H:11])[C:3](=[C:7]([C:6](=[N:5][H:12])[H:13])[H:14])[N-:4]1)([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],10.073828794459388
[H:10][H:14].[O:1]=[C:2]([C:3]([C@@:4]([O:5][H:8])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])[H:9]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],51.0633165397535
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:17],90.4049173877512
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5](=[O:6])[H:12])([H:7])([H:8])[H:9].[C:2](=[N:3][H:10])=[N:4][H:11],95.39280231154841
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C@@:3]([O:4][H:7])([C:5]#[N:6])[H:9])[H:8],44.5818485932645
